US04458075
4-Acetyl-1-[3-(6-fluoro-1,2-benzisoxazol-3-yl)propyl]-4-phenylpiperidine hydrochloride
To 35 ml of dimethylformamide was added 4.06 g of 4-acetyl-4-phenylpiperidine, 5.0 g of 3-(3-chloropropyl)-6-fluoro-1,2-benzisoxazole, 10 g of milled anhydrous potassium carbonate, and a few crystals of potassium iodide. After stirring at 80° C. for two hrs, the mixture was filtered. The filtrate was evaporated and the residue was stirred with 100 ml of water and then extracted into ether. The ether solution was washed with water (2×), saturated sodium chloride solution and dried over anhydrous magnesium sulfate. After filtering, the solution was acidified with ethereal hydrogen chloride and the resultant precipitate was collected and dried to yield 5.5 g (66%) of product, mp 170° C. (dec). Three recrystallizations from ethyl acetate:methanol (9:1) gave the analytical sample, mp 200°-203° C.

reactant | 4-acetyl-4-phenylpiperidine | 4.06 g | C(C)(=O)C1(CCNCC1)C1=CC=CC=C1 | C13H17NO
reactant | 3-(3-chloropropyl)-6-fluoro-1,2-benzisoxazole | 5.0 g | ClCCCC1=NOC2=C1C=CC(=C2)F | C10H9ClFNO
reactant | potassium carbonate | 10 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | [I-].[K+]
solvent | dimethylformamide | 35 ml | CN(C=O)C | C3H7NO
product | 4-Acetyl-1-[3-(6-fluoro-1,2-benzisoxazol-3-yl)propyl]-4-phenylpiperidine hydrochloride | 5.5 g, 66% | Cl.C(C)(=O)C1(CCN(CC1)CCCC1=NOC2=C1C=CC(=C2)F)C2=CC=CC=C2 | InChI=1S/C23H25FN2O2.ClH/c1-17(27)23(18-6-3-2-4-7-18)11-14-26(15-12-23)13-5-8-21-20-10-9-19(24)16-22(20)28-25-21;/h2-4,6-7,9-10,16H,5,8,11-15H2,1H3;1H
